US06235742B1
5-[4-(4H-1,2,4-triazol-4-yl)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
A mixture of 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (297 mg, 0.0010 mol) and 1,2-diformylhydrazine (101 mg, 0.00115 mol) was heated to 200° C. The resulting melt was then stirred under a nitrogen atmosphere at this temperature for 55 minutes. On cooling, the solid was dissolved in dichloromethane:methanol, pre-absorbed onto silica and purified by flash column chromatography eluting with a solvent gradient of dichloromethane:methanol (99:1 to 96:4 by volume) then dichloromethane:methanol:0.880 aqueous ammonia (90:10:1 by volume). Crystallisation from ethyl acetate/methanol gave the title compound (120 mg), m.p.297-300° C.

reactant | 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.0010 mol, 297 mg | NC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H19N5O
reactant | 1,2-diformylhydrazine | 0.00115 mol, 101 mg | C(=O)NNC=O | C2H4N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[4-(4H-1,2,4-triazol-4-yl)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 120 mg | N=1N=CN(C1)C1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C18H19N7O
